US09289531B2
Synthesis of 2-[2-(Benzyloxy)ethoxy]ethyl acrylate (DEGMBA)
To a 1 L three-neck round bottom flask equipped with mechanical stirrer were charged diethylene glycol monobenzyl ether (98.0 g, 0.5 mol), anhydrous triethylamine (120 mL, 0.85 mol), and anhydrous THF (300 mL). The solution was cooled in an ice/salt bath under dry air blanket for 15 minutes. Acryloyl chloride (55 mL, 0.68 mol) was added into the vigorously stirred cold solution through an addition funnel over 90 minutes and the addition rate was adjusted to keep the temperature of the reaction mixture below 10° C. After the addition, the reaction mixture was stirred in the ice/salt bath for additional two hours followed by quenching with the addition of 2M HCl (400 mL). The mixture was extracted with ethyl acetate (300 mL×3) and the combined organic layer was washed with DI water (200 mL×3), aqueous sodium bicarbonate (200 mL×2), and dried over MgSO4. Filtration and removal of solvents under reduced pressure gave the crude product as light brown oil which was purified on silica gel using Hexanes/Ethyl acetate (4/1, v/v) as eluent to give the final product as a colorless oil (105.0 g, 0.42 mol, yield: 84%).

reactant | diethylene glycol monobenzyl ether | 0.5 mol, 98.0 g | C(C1=CC=CC=C1)OCCOCCO | C11H16O3
reactant | triethylamine | 0.85 mol, 120 mL | C(C)N(CC)CC | C6H15N
reactant | Acryloyl chloride | 0.68 mol, 55 mL | C(C=C)(=O)Cl | C3H3ClO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-[2-(Benzyloxy)ethoxy]ethyl acrylate | 0.42 mol, 105.0 g, yield: 84% | C(C=C)(=O)OCCOCCOCC1=CC=CC=C1 | C14H18O4
